### PR TITLE
[Merged by Bors] - feat: Vieta's formula for quadratic polynomial

### PR DESCRIPTION
**Pull request by zqc17**
prove that given roots a quadratic can factor to
$a(x-x1)(x-x2)$.

prove that the sum of roots of a quadratic is
$-b/a$ and the production of roots if $c/a$.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by kim-em** [comment]
I think these are special cases of the content of `Mathlib/RingTheory/Polynomial/Vieta.lean`. Please restate your theorems there as consequences of the arbitrary degree formulas.

**Comment by zqc17** [comment]
> I think these are special cases of the content of `Mathlib/RingTheory/Polynomial/Vieta.lean`. Please restate your theorems there as consequences of the arbitrary degree formulas.

I have restated my theorem as a consequence of `Polynomial.coeff_eq_esymm_roots_of_card` from `Mathlib/RingTheory/Polynomial/Vieta.lean`. Please review again, thanks.

**Comment by kim-em** [comment]
This significantly adds to the imports; see the report under "Import changes for modified files" above. Could you fix this by moving these to a later or new file?

**Comment by zqc17** [comment]
> This significantly adds to the imports; see the report under "Import changes for modified files" above. Could you fix this by moving these to a later or new file?

Done. I have moved to a new file. Please review again, thanks a lot.

**Comment by kbuzzard** [comment]
Can you please merge master to get rid of the `messageFile.md` messages?

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 1]
```diff
@@ -0,0 +1,55 @@
...
+
+namespace Multiset
+
+lemma esymm_one_of_pair {R : Type*} [CommSemiring R] (x1 x2 : R) :
+    esymm {x1, x2} 1 = x2 + x1 := by
+  simp [esymm, powersetCard_one]
+
+lemma esymm_two_of_pair {R : Type*} [CommSemiring R] (x1 x2 : R) :
+    esymm {x1, x2} 2 = x1 * x2 := by
+  simp [esymm, powersetCard_one]
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:22]: These lemmas are misnamed; `of` means "implies" in the naming convention. They should be `esymm_pair_one` and `esymm_pair_two` and they should in another file, for example the file where `esymm` is defined.

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 2]
```diff
@@ -0,0 +1,55 @@
...
+namespace Polynomial
+
+/-- **Vieta's formula** for quadratic in term of `Polynomial.roots`.
+This is a consequence of `Polynomial.coeff_eq_esymm_roots_of_card`. -/
+lemma quadratic_vieta {R : Type*} [CommRing R] [IsDomain R] {a b c x1 x2 : R}
+    (hroots : (C a * X ^ 2 + C b * X + C c).roots = {x1, x2}) :
+    b = -a * (x1 + x2) ∧ c = a * x1 * x2 := by
+  let p : R[X] := C a * X ^ 2 + C b * X + C c
+  have hp_natDegree : p.natDegree = 2 := le_antisymm natDegree_quadratic_le
+    (by convert Polynomial.card_roots' p; rw [hroots, Multiset.card_pair])
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:35]:
```suggestion
    (by simpa [hroots] using p.card_roots')
```

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 3]
```diff
@@ -0,0 +1,55 @@
...
+  have hp_roots_card : p.roots.card = p.natDegree := by
+    rw [hp_natDegree, hroots, Multiset.card_pair]
+  have hp_coeff2 : p.coeff 2 = a := by simp [p]
+  constructor
+  · convert coeff_eq_esymm_roots_of_card hp_roots_card (k := 1) (by norm_num [hp_natDegree]) using 1
+    · simp [p]
+    · rw [leadingCoeff, hp_natDegree, hroots, hp_coeff2, Multiset.esymm_one_of_pair]; ring
+  · convert coeff_eq_esymm_roots_of_card hp_roots_card (k := 0) (by norm_num) using 1
+    · simp [p]
+    · rw [leadingCoeff, hp_natDegree, hroots, hp_coeff2, Multiset.esymm_two_of_pair]; ring
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:45]:
```suggestion
  simpa [leadingCoeff, hp_natDegree, p, hroots, mul_assoc, add_comm x1] using
    And.intro (coeff_eq_esymm_roots_of_card hp_roots_card (k := 1) (by norm_num [hp_natDegree]))
      (coeff_eq_esymm_roots_of_card hp_roots_card (k := 0) (by norm_num [hp_natDegree]))
```

**Comment by zqc17** [comment]
`esymm_pair_one` and `esymm_pair_two` have moved to `Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean`.
I keep the code`convert p.card_roots'; rw [hroots, Multiset.card_pair]` since `simpa [hroots] using p.card_roots'` cannot solve the goal.
Please review again, thanks.

File: Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean [hunk 4]
```diff
@@ -80,6 +80,15 @@ lemma pow_smul_esymm {S : Type*} [Monoid S] [DistribMulAction S R] [IsScalarTowe
     rw [Function.comp_apply, (mem_powersetCard.1 hx).2]
   · simp_rw [smul_prod, esymm, powersetCard_map, map_map, Function.comp_def]
 
+-- TODO: `Multiset.insert_eq_cons` being simp means that `esymm {x1, x2}` is not simp normal form
+@[simp] lemma esymm_pair_one {R : Type*} [CommSemiring R] (x1 x2 : R) :
+    esymm (x1 ::ₘ {x2}) 1 = x2 + x1 := by
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean:85]:
```suggestion
    esymm (x1 ::ₘ {x2}) 1 = x1 + x2 := by
```
seems better

File: Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean [hunk 5]
```diff
@@ -80,6 +80,15 @@ lemma pow_smul_esymm {S : Type*} [Monoid S] [DistribMulAction S R] [IsScalarTowe
...
+  simp [esymm, powersetCard_one]
+
+@[simp] lemma esymm_pair_two {R : Type*} [CommSemiring R] (x1 x2 : R) :
+    esymm (x1 ::ₘ {x2}) 2 = x1 * x2 := by
+  simp [esymm, powersetCard_one]
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean:90]: Could you use `a` and `b` or `x` and `y` instead of `x1` and `x2`? Also,`{R : Type*} [CommSemiring R]` is already declared in this section, no need to repeat it

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 6]
```diff
@@ -0,0 +1,38 @@
...
+/-!
+# Vieta's Formula for polynomial of small degrees.
+-/
+
+namespace Polynomial
+
+/-- **Vieta's formula** for quadratic in term of `Polynomial.roots`.
+This is a consequence of `Polynomial.coeff_eq_esymm_roots_of_card`. -/
+lemma quadratic_vieta {R : Type*} [CommRing R] [IsDomain R] {a b c x1 x2 : R}
+    (hroots : (C a * X ^ 2 + C b * X + C c).roots = {x1, x2}) :
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:19]: Can you add the `aroots`  version too?

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 7]
```diff
@@ -0,0 +1,38 @@
...
+    b = -a * (x1 + x2) ∧ c = a * x1 * x2 := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:20]: Is this statement an `iff`?

**Comment by zqc17** [comment]
1. Use `x` and `y` instead of `x1` and `x2` in `esymm_pair_one` and `esymm_pair_two`. Also `{R : Type*} [CommSemiring R]` is removed.
2. The statement of `esymm_pair_one` is now `esymm (x ::ₘ {y}) 1 = x + y`.
3. `aroots` version is added.
4. `iff` version is added given condition `a ≠ 0`.

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 8]
```diff
@@ -0,0 +1,76 @@
...
+
+namespace Polynomial
+
+variable {R T S : Type*}
+
+/-- **Vieta's formula** for quadratic in term of `Polynomial.roots`.
+This is a consequence of `Polynomial.coeff_eq_esymm_roots_of_card`. -/
+lemma quadratic_vieta [CommRing R] [IsDomain R] {a b c x1 x2 : R}
+    (hroots : (C a * X ^ 2 + C b * X + C c).roots = {x1, x2}) :
+    b = -a * (x1 + x2) ∧ c = a * x1 * x2 := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:22]: It's a little unusual to have a theorem whose conclusion is an `And`; perhaps this should be two separate lemmas, `eq_add_of_roots_eq_pair` and `eq_mul_of_roots_eq_pair`?

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 9]
```diff
@@ -0,0 +1,76 @@
...
+    have h1 : C a * (X - C x1) ≠ 0 := mul_ne_zero (by simpa) (Polynomial.X_sub_C_ne_zero _)
+    have h2 : C a * (X - C x1) * (X - C x2) ≠ 0 := mul_ne_zero h1 (Polynomial.X_sub_C_ne_zero _)
+    simp [this, Polynomial.roots_mul h2, Polynomial.roots_mul h1]
+  simpa [hvieta.1, hvieta.2] using by ring
+
+/-- **Vieta's formula** for quadratic in term of `Polynomial.roots`. -/
+lemma quadratic_vieta_iff_of_ne_zero [CommRing R] [IsDomain R] {a b c x1 x2 : R}
+    (ha : a ≠ 0) : (C a * X ^ 2 + C b * X + C c).roots = {x1, x2} ↔
+      b = -a * (x1 + x2) ∧ c = a * x1 * x2 :=
+  ⟨quadratic_vieta, roots_of_ne_zero_of_vieta ha⟩
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:54]: Rather than creating a private lemma, I think you should just inline the former into the latter.

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean (hunk 8 above)
Comment (zqc17) [reply Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:22]: It looks fine to split `quadratic_vieta` into two lemmas. And it seems that I should change the name of all the lemmas to descriptive name. Should I?

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean (hunk 9 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:54]: You can use the non-aroots `Iff` version to prove the aroots version.

Comment (zqc17) [reply Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean]: Ok. I have done.

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean (hunk 8 above)
Comment (zqc17) [reply Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean]: `And` is now splitted into 2 lemmas. All lemmas are renamed.

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 10]
```diff
@@ -0,0 +1,101 @@
...
+/-- **Vieta's formula** for quadratic(`aroots` version). -/
+lemma eq_neg_mul_add_of_aroots_quadratic_eq_pair
+    [CommRing T] [CommRing S] [IsDomain S] [Algebra T S] {a b c : T} {x1 x2 : S}
+    (haroots : (C a * X ^ 2 + C b * X + C c).aroots S = {x1, x2}) :
+    algebraMap T S b = -algebraMap T S a * (x1 + x2) := by
+  rw [aroots_def, show map (algebraMap T S) (C a * X ^ 2 + C b * X + C c) = C ((algebraMap T S) a) *
+    X ^ 2 + C ((algebraMap T S) b) * X + C ((algebraMap T S) c) by simp] at haroots
+  exact eq_neg_mul_add_of_roots_quadratic_eq_pair haroots
+
+/-- **Vieta's formula** for quadratic(`aroots` version). -/
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:51]:
```suggestion
/-- **Vieta's formula** for quadratic (`aroots` version). -/
```

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 11]
```diff
@@ -0,0 +1,101 @@
...
+lemma eq_mul_mul_of_aroots_quadratic_eq_pair [CommRing T] [CommRing S] [IsDomain S] [Algebra T S]
+    {a b c : T} {x1 x2 : S} (haroots : (C a * X ^ 2 + C b * X + C c).aroots S = {x1, x2}) :
+    algebraMap T S c = algebraMap T S a * x1 * x2 := by
+  rw [aroots_def, show map (algebraMap T S) (C a * X ^ 2 + C b * X + C c) = C ((algebraMap T S) a) *
+    X ^ 2 + C ((algebraMap T S) b) * X + C ((algebraMap T S) c) by simp] at haroots
+  exact eq_mul_mul_of_roots_quadratic_eq_pair haroots
+
+/-- **Vieta's formula** for quadratic(`Iff` version). -/
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:59]:
```suggestion
/-- **Vieta's formula** for quadratics as an iff. -/
```

**Review by YaelDillies — COMMENTED** [review]
etc

**Comment by zqc17** [comment]
Comments are updated.

**Comment by YaelDillies** [comment]
Can you please mark as resolved the conversations which you have addressed?

**Comment by zqc17** [comment]
Ok. All resolved.

**Review by YaelDillies — APPROVED** [review]
@eric-wieser, more comments?

maintainer merge

**Comment by kim-em** [comment]
bors merge
